US06262056B1
1. 3-acetyl-5-methylbenzo(b)thiophene
1 g of 5-methylbenzo(b)thiophene (6.75×10−3 moles) was stirred at 55° C. with 0.8 ml of Ac2O (8.10×10−3 moles). 0.83 ml of BF3 Et2O were added and stirring was continued for 8 hours.11 The solvent was removed in the rotary evaporator and the residue was extracted with AcOEt and H2O. It was decanted and washed with NaHCO3 and H2O. It was dried with Na2SO4, the solvent was removed and the product was purified in successive columns of AcOEt/hexane (1:1) and toluene respectively. A product was obtained which was a mixture of the substitution isomers in positions 2- and 3- of the benzo(b)thiophene ring in a proportion of approximately 20/80 (determined by the ratios of the areas of the NMR signals), which was passed to the following reaction. Yield: 50%.

reactant | 5-methylbenzo(b)thiophene | 6.75×10−3 moles, 1 g | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | Ac2O | 8.10×10−3 moles, 0.8 ml | CC(=O)OC(=O)C | C4H6O3
product | 3-acetyl-5-methylbenzo(b)thiophene | Yield: 50% | C(C)(=O)C=1C2=C(SC1)C=CC(=C2)C | C11H10OS
